US06555556B1
N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]ethanesulfonamide
To a suspension of [3-(3-cyanophenyl)-2-(E)-propenyl]ethyl carbonate (1.04 g) and N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]ethanesulfonamide (1.15 g) in tetrahydrofuran (9 ml) were added tris(dibenzylideneacetone)palladium chloroform complex (0.077 g) and triphenylphosphine (0.039 g) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/ethyl acetate=8/1 as an eluant to give the desired compound (1.57 g, yield quantitative) as a pale yellow oil.

reactant | [3-(3-cyanophenyl)-2-(E)-propenyl]ethyl carbonate | 1.04 g | C(OCCC\C=C\C1=CC(=CC=C1)C#N)([O-])=O
reactant | N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]ethanesulfonamide | 1.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NS(=O)(=O)CC | C18H28N2O5S
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
catalyst | triphenylphosphine | 0.039 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]ethanesulfonamide | 1.57 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)CC)C\C=C\C1=CC(=CC=C1)C#N | C28H35N3O5S
